US07915281B2
The methods of Part H of Example 35 were used to treat N4-[(5-pyridin-3-ylisoxazol-3-yl)methyl]quinoline-3,4-diamine (0.95 g, 2.98 mmol) with trimethy orthobutyrate (0.57 mL, 3.6 mmol) and pyridine hydrochloride (0.069 g, 0.60 mmol) and purify the product to provide 0.930 g of 2-propyl-1-[(5-pyridin-3-ylisoxazol-3-yl)methyl]-1H-imidazo[4,5-c]quinoline as a tan solid.

reactant | N4-[(5-pyridin-3-ylisoxazol-3-yl)methyl]quinoline-3,4-diamine | 2.98 mmol, 0.95 g | N1=CC(=CC=C1)C1=CC(=NO1)CNC1=C(C=NC2=CC=CC=C12)N | C18H15N5O
reactant | trimethy orthobutyrate | 3.6 mmol, 0.57 mL | C(CCC)(OC)(OC)OC | C7H16O3
reactant | pyridine hydrochloride | 0.60 mmol, 0.069 g | Cl.N1=CC=CC=C1
product | 2-propyl-1-[(5-pyridin-3-ylisoxazol-3-yl)methyl]-1H-imidazo[4,5-c]quinoline | 0.930 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1=NOC(=C1)C=1C=NC=CC1 | C22H19N5O
